US09126956B2
6C: (2S,4R)-5-(3′-Chlorobiphenyl-4-yl)-2-ethoxymethyl-4-[(3-methoxyisoxazole-5-carbonyl)amino]-2-methylpentanoic Acid
3-Methoxyisoxazole-5-carboxylic acid and (2S,4R)-4-amino-5-(3′-chlorobiphenyl-4-yl)-2-ethoxymethyl-2-methylpentanoic acid were reacted as described herein to yield the title compound (2 mg). MS m/z [M+H]+ calc'd for C26H29ClN2O6, 501.17. found 501.2.

reactant | 3-Methoxyisoxazole-5-carboxylic acid | COC1=NOC(=C1)C(=O)O | C5H5NO4
reactant | (2S,4R)-4-amino-5-(3′-chlorobiphenyl-4-yl)-2-ethoxymethyl-2-methylpentanoic acid | N[C@@H](C[C@@](C(=O)O)(C)COCC)CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl | C21H26ClNO3
product | (2S,4R)-5-(3′-Chlorobiphenyl-4-yl)-2-ethoxymethyl-4-[(3-methoxyisoxazole-5-carbonyl)amino]-2-methylpentanoic Acid | 2 mg | ClC=1C=C(C=CC1)C1=CC=C(C=C1)C[C@H](C[C@@](C(=O)O)(C)COCC)NC(=O)C1=CC(=NO1)OC | C26H29ClN2O6
